US08053440B2
LAH (0.571 g, 15.05 mmol) was added to a 3-neck dry flask and THF (50 mL) was added on cooling. A solution of 4-morpholin-4-ylmethyl)-benzoic acid ethyl ester (3.0 g, 12.04 mmol) in THF (10 mL) was added slowly on cooling. After completion of addition, the reaction mixture was heated at reflux for 3 h. The reaction mixture was cooled to 0° C. and a 10% NaOH solution was added carefully followed by water. The organic layer was separated and the aqueous layer was extracted with ethyl acetate. The combined organic layers were washed with water, brine and dried over Na2SO4. The solvent was removed to give (4-morpholin-4-ylmethyl phenyl)methanol (2.0 g, 80%). To the 3-flask anhydrous CH2Cl2 (100 mL) was added and cooled to −78° C. Oxalyl chloride (1.47 g, 11.59 mmol) and DMSO (1.5 g, 19.32 mmol) were added at −78° C. The reaction mixture was stirred for 15 min at −78° C. A solution of (4-morpholin-4-ylmethyl phenyl)methanol (2.0 g, 9.66 mmol) in CH2Cl2 (10 mL) was added at −78° C. and the mixture was stirred at −78° C. for 1 h. Then, Et3N (3.9 g, 38.64 mmol) was added. The reaction mixture was allowed to come at room temperature. Water was added and the organic layer was isolated. The aqueous layer was extracted with CH2Cl2. The combined organic layers were washed with water, brine and dried over Na2SO4. Then solvent was removed to give crude 4-morpholin-4-ylmethyl benzaldehyde (1.6 g, 81%).

reactant | Oxalyl chloride | 11.59 mmol, 1.47 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMSO | 19.32 mmol, 1.5 g | CS(=O)C | C2H6OS
reactant | (4-morpholin-4-ylmethyl phenyl)methanol | 9.66 mmol, 2.0 g | N1(CCOCC1)CC1=CC=C(C=C1)CO | C12H17NO2
reactant | Et3N | 38.64 mmol, 3.9 g | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
solvent | Water | O | H2O
product | 4-morpholin-4-ylmethyl benzaldehyde | 1.6 g, 81% | N1(CCOCC1)CC1=CC=C(C=O)C=C1 | C12H15NO2
